US04950674
α,α-Bis(4-methylphenyl)-1-(phenylmethyl)-4-piperidinemethanol
A Grignard solution was prepared by the addition of 102.6 g (0.6 mole) of 4-bromotoluene in 500 ml of dry tetrahydrofuran to a mixture of 12.5 g (0.5 mole) of magnesium chips in 250 ml of tetrahydrofuran. After the addition was complete, the mixture was heated at reflux for 1 hr to complete formation. To this Grignard reagent at ambient temperature was added in a stream 42.9 g (0.173 mole) of 1-(phenylmethyl)-4-piperidinecarboxylic acid ethyl ester in 250 ml of dry tetrahydrofuran. The solution was stirred at ambient temperature and then poured into 2.5 liters of a saturated ammonium chloride solution. The layers were separated and the aqueous layer was extracted twice with 375 ml portions of methylene chloride. The combined organic layers were washed successively with 500 ml of water, 750 ml of a 3% sodium hydroxide solution, 250 ml of water and 250 ml of brine. The organic layer was dried over sodium sulfate and concentrated under pressure to give a gum as residue. The gum gradually cyrstallized. The solid was triturated with petroleum ether (30°-60° C.), collected by filtration and dried to yield 63.6 g (95%) of title compound as a white solid. An analytical sample was recrystallized from 2-propanol, mp 115°-117° C.

reactant | 4-bromotoluene | 0.6 mole, 102.6 g | BrC1=CC=C(C=C1)C | C7H7Br
reactant | magnesium | 0.5 mole, 12.5 g | [Mg] | Mg
reactant | 1-(phenylmethyl)-4-piperidinecarboxylic acid ethyl ester | 0.173 mole, 42.9 g | C(C)OC(=O)C1CCN(CC1)CC1=CC=CC=C1 | C15H21NO2
reactant | ammonium chloride | 2.5 liters | [Cl-].[NH4+]
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | α,α-Bis(4-methylphenyl)-1-(phenylmethyl)-4-piperidinemethanol | 63.6 g, 95% | CC1=CC=C(C=C1)C(O)(C1CCN(CC1)CC1=CC=CC=C1)C1=CC=C(C=C1)C | C27H31NO
